US07989444B2
Preparation 67: 1,1-dimethylethyl 2,10-dimethyl-5,6,8,9-tetrahydro-7H-[1,3]oxazolo[4,5-h][3]benzazepine-7-carboxylate
1,1-Dimethylethyl 8-amino-7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (1.1 g) was treated with trimethyl orthoacetate (0.718 ml) and pyridinium p-toluenesulfonate (94 mg) in dry DMF (19 ml) at 60° C. for 1.5 hours. Volatiles were evaporated under reduced pressure and the residue was purified on silica gel (ethyl acetate/petroleum ether: 1/4) providing the title compound as white solid (1.127 g, 94% yield).

reactant | 1,1-Dimethylethyl 8-amino-7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.1 g | NC=1C(=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C1)C)O | C16H24N2O3
reactant | trimethyl orthoacetate | 0.718 ml | C(C)(OC)(OC)OC | C5H12O3
reactant | pyridinium p-toluenesulfonate | 94 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | DMF | 19 ml | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 2,10-dimethyl-5,6,8,9-tetrahydro-7H-[1,3]oxazolo[4,5-h][3]benzazepine-7-carboxylate | 1.127 g, 94% yield | CC=1OC2=C(C3=C(CCN(CC3)C(=O)OC(C)(C)C)C=C2N1)C | C18H24N2O3
